US05202337
d) 5-Bromo-2-methyl-2,7-diazabicyclo[3.3.0]octane
18.4 g (60.7 mmol, 91.4%) of ethyl 5-bromo-2-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are refluxed overnight together with 120 ml of concentrated hydrochloric acid. The mixture is concentrated, the concentrate is taken up in 50 ml of water, this mixture is rendered alkaline using potassium carbonate and extracted five times using 100 ml portions of chloroform. The extracts are dried over potassium carbonate, concentrated and distilled.

reactant | ethyl 5-bromo-2-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 60.7 mmol, 18.4 g | BrC12CCN(C2CN(C1)C(=O)OCC)C | C10H17BrN2O2
solvent | hydrochloric acid | 120 ml | Cl | ClH
product | 5-Bromo-2-methyl-2,7-diazabicyclo[3.3.0]octane | BrC12CCN(C2CNC1)C | C7H13BrN2
